US06251917B1
a) (S)-2-Benzyl-N-(3-phenylpropan-1-ol-2-yl)benzamide
At 0° C., 2.1 g (9.2 mmol) of 2-benzylbenzoyl chloride dissolved in a little methylene chloride were added dropwise to 1.3 g (8.6 mmol) of (S)-2-amino-3-phenylpropan-1-ol in 35 ml of methylene chloride and 20 ml of 2M aqueous sodium hydroxide solution. The mixture was stirred for about 30 min. The organic phase was separated off, dried and concentrated under reduced pressure. 2.7 g (91%) of the product were obtained.

reactant | 2-benzylbenzoyl chloride | 9.2 mmol, 2.1 g | C(C1=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C14H11ClO
reactant | (S)-2-amino-3-phenylpropan-1-ol | 8.6 mmol, 1.3 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 2M, 20 ml | [OH-].[Na+]
product | (S)-2-Benzyl-N-(3-phenylpropan-1-ol-2-yl)benzamide | 2.7 g, 91% | C(C1=CC=CC=C1)C1=C(C(=O)N[C@H](CO)CC2=CC=CC=C2)C=CC=C1 | C23H23NO2
